US07635700B2
A solution of 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-methyl-benzamide (0.60 g, 2.2 mmol), trimethyl orthoformate (3 mL, 26.8 mmol), and p-toluene sulfonic acid (0.060 g) in acetonitrile (20 mL) was heated to reflux for 30 hours. The mixture was cooled to room temperature. To the mixture, water (75 mL) and ether (20 mL) were added, and the resulting mixture was stirred for 2 hours. The suspension was filtered and washed with water and ether (50 mL each) to give 3-(5-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione as a white solid (0.28 g, 47% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 3.08 min (99%); mp: 262-264° C.; 1H NMR (DMSO-d6) δ 2.09-2.16 (m, 1H, CHH), 2.62-2.84 (m, 6H, CH2, CH3, CHH), 5.42 (brs, 1H, NCH), 7.32 (d, J=7 Hz, 1H, Ar), 7.52 (d, J=8 Hz, 1H, Ar), 7.69 (t, J=8 Hz, 1H, Ar), 8.30 (s, 1H, CH), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ22.35, 22.62, 30.88, 58.00, 119.81, 125.36, 129.57, 133.72, 140.15, 147.08, 149.07, 160.21, 169.91, 172.33, 172.44; LCMS: MH=272; Anal. Calcd. for C14H13N3O3: C, 61.99; H, 4.83; N, 15.49. Found: C, 61.67; H, 4.40; N, 15.41.

reactant | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-methyl-benzamide | 2.2 mmol, 0.60 g | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C(=CC=C1)C | C13H15N3O3
reactant | trimethyl orthoformate | 26.8 mmol, 3 mL | C(OC)(OC)OC | C4H10O3
reactant | p-toluene sulfonic acid | 0.060 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 75 mL | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | ether | 20 mL | CCOCC | C4H10O
product | 3-(5-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 0.28 g, 47% yield | CC1=C2C(N(C=NC2=CC=C1)C1C(NC(CC1)=O)=O)=O | C14H13N3O3
